US05506219
A. 4-Fluoro-2-methylbenzaldehyde
A -78° C. solution of 2-fluoro-5-bromotoluene (25.764 gm, 136.3 mmol) in THF (200 ml) was treated with n-BuLi (2.5M in hexane, 60 ml, 150 mmol) over a 12-minute period. After stirring for one hour, the cloudy white mixture was treated with neat dimethylformamide (30 ml, 28.3 gm, 387 mmol) over a two-minute period. Stirring continued for an additional hour. The mixture was then quenched with saturated NH4Cl, warmed to room temperature, and made acidic with 10% HCl. The mixture was extracted with Et2O and the ether extract was washed with H2O and brine, then dried (Na2SO4), filtered, and stripped. The dark residue was distilled (bp 55° C. @1 mm) to give the title compound (16.286 gm, 86%).

reactant | 2-fluoro-5-bromotoluene | 136.3 mmol, 25.764 gm | FC1=C(C=C(C=C1)Br)C | C7H6BrF
reactant | n-BuLi | 150 mmol, 2.5M, 60 ml | [Li]CCCC
reactant | dimethylformamide | 387 mmol, 30 ml, 28.3 gm | CN(C=O)C | C3H7NO
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-Fluoro-2-methylbenzaldehyde | 16.286 gm, 86% | FC1=CC(=C(C=O)C=C1)C | C8H7FO
